US04166178
In water (50 ml) is suspended 7β-phenylacetamido-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid (3.0 g) together with 5-mercapto-1-methyl-1H-tetrazole (1.0 g). The mixture is adjusted to pH 5.5 with sodium hydrogen carbonate and the resultant solution is heated at 60° C. for 50 minutes. The solution is brought to pH 2.0 with dilute phosphoric acid and extracted with ethyl acetate (100 ml). The extract is rinsed with a saturated aqueous solution of sodium chloride, dried and concentrated. Then, following the addition of ether, the precipitate is recovered by filtration. By the above procedure is obtained 7β-phenylacetamido-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.8 g).

reactant | 7β-phenylacetamido-3-[2-(N-carboethoxysulfamoyl)benzoyloxy]methyl-3-cephem-4-carboxylic acid | 3.0 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C2=C(C=CC=C2)S(NC(=O)OCC)(=O)=O)=O)C(=O)O)C1=O | C26H25N3O10S2
reactant | 5-mercapto-1-methyl-1H-tetrazole | 1.0 g | SC1=NN=NN1C | C2H4N4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 50 ml | O | H2O
product | 7β-phenylacetamido-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.8 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C18H18N6O4S2
